US08071588B2
A mixture of N1-[(3-bromo-4-fluorophenyl)methyl]-N1-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,1-cyclopropanedicarboxamide (80 mg, 0.133 mmol), 1-methyl-4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}piperidine (53.4 mg, 0.133 mmol), Na2CO3 (42.3 mg, 0.399 mmol) and PdCl2(dppf) (9.73 mg, 13 μmol) was diluted in a mixture of 1,4-dioxane (3 mL) and water (1 mL) in a 2-5 mL Biotage microwave reaction tube. The mixture was degassed by bubbling argon through it for 5 min and was then heated in a Biotage microwave at normal absorption for 10 min at 100° C. The crude mixture was filtered through a PL-Thiol MP SPE+ and was then washed with ethyl acetate and water. The organic layer was concentrated under vacuum to obtain the crude residue. It was purified by reverse phase hplc with a Gilson HPLC (acidic conditions: 0.1% TFA in the solvents), eluting with 10 to 70% CH3CN in water at a flow rate of 20 mL/min. The product fractions were combined and washed with saturated NaHCO3 and extracted with ethyl acetate twice. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and then concentrated under vacuum to give N1-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N1-({6-fluoro-3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)-1,1-cyclopropanedicarboxamide as a solid (2 mg, 2.12%). LC-MS m/z 712 (M+H)+, 0.79 min (ret time).

reactant | N1-[(3-bromo-4-fluorophenyl)methyl]-N1-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,1-cyclopropanedicarboxamide | 0.133 mmol, 80 mg | BrC=1C=C(C=CC1F)CN(C(=O)C1(CC1)C(=O)N)CC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C28H34BrFN6O3
reactant | 1-methyl-4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}piperidine | 0.133 mmol, 53.4 mg | CN1CCC(CC1)CC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C19H30BNO2
reactant | Na2CO3 | 0.399 mmol, 42.3 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | PdCl2(dppf) | 13 μmol, 9.73 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N1-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N1-({6-fluoro-3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)-1,1-cyclopropanedicarboxamide | 2 mg, 2.12% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CN(C(=O)C2(CC2)C(=O)N)CC=2C=C(C(=CC2)F)C2=CC(=CC=C2)CC2CCN(CC2)C)CC | C41H52FN7O3
